US07186724B2
4-(2–Carboxy-6-trifluoromethyl-benzo[b]thiophen-3-yl)-piperidine-1-carboxylic acid methyl ester.
To a stirred solution of 4-(2-Methoxycarbonyl-6-trifluoromethyl-benzo[b]thiophen-3-yl)-piperidine-1-carboxylic acid methyl ester (1.1 g, 2.7 mmol) in THF (7.0 mL) was added 1 N NaOH (2.97 mL). The resulting mixture was stirred at room temperature overnight when the mixture was diluted with water (50 mL) and washed with ether (100 mL). The aqueous layer was acidified with the addition of 3 N HCl and the product was extracted with EtOAc (2×150 mL). The combined organic layers were washed with brine (50 mL), dried (MgSO4), filtered and evaporated yielding 960 mg (92%) of the desired product as a white solid.

reactant | 4-(2-Methoxycarbonyl-6-trifluoromethyl-benzo[b]thiophen-3-yl)-piperidine-1-carboxylic acid methyl ester | 2.7 mmol, 1.1 g | COC(=O)N1CCC(CC1)C=1C2=C(SC1C(=O)OC)C=C(C=C2)C(F)(F)F | C18H18F3NO4S
reactant | NaOH | 1 N, 2.97 mL | [OH-].[Na+]
solvent | THF | 7.0 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 4-(2–Carboxy-6-trifluoromethyl-benzo[b]thiophen-3-yl)-piperidine-1-carboxylic acid methyl ester | 960 mg, 92% | COC(=O)N1CCC(CC1)C=1C2=C(SC1C(=O)O)C=C(C=C2)C(F)(F)F | C17H16F3NO4S
